US07465815B2
3-Phenyl-4,6,7-trimethyl-1-benzofuran-2 (3H)-one
Using 2,3,5-trimethylphenol and hydroxy(phenyl)acetic acid, the title compound was synthesized in the same manner as in Reference Example 2. Yield 37%. Melting point: 129-130° C. (ethyl acetate-hexane).

reactant | 2,3,5-trimethylphenol | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | hydroxy(phenyl)acetic acid | OC(C(=O)O)C1=CC=CC=C1 | C8H8O3
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-Phenyl-4,6,7-trimethyl-1-benzofuran-2 (3H)-one | Yield 37% | C1(=CC=CC=C1)C1C(OC2=C1C(=CC(=C2C)C)C)=O | C17H16O2
